US06809110B2
In analogy to the procedure described in example 10 d], [rac]-2-ethoxy-3-[2-methyl-4-(4-methyl-2-phenyl-thiazol-5-ylmethoxy)-phenyl]-propionic acid ethyl ester was treated with LiOH to obtain [rac]-2-ethoxy-3-[2-methyl-4-(4-methyl-2-phenyl-thiazol-5-ylmethoxy)-phenyl]-propionic acid as colorless oil.

reactant | [rac]-2-ethoxy-3-[2-methyl-4-(4-methyl-2-phenyl-thiazol-5-ylmethoxy)-phenyl]-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCC1=C(N=C(S1)C1=CC=CC=C1)C)C)OCC)=O | C25H29NO4S
reactant | LiOH | [Li+].[OH-]
product | [rac]-2-ethoxy-3-[2-methyl-4-(4-methyl-2-phenyl-thiazol-5-ylmethoxy)-phenyl]-propionic acid | C(C)OC(C(=O)O)CC1=C(C=C(C=C1)OCC1=C(N=C(S1)C1=CC=CC=C1)C)C | C23H25NO4S
